US08669234B2
Methyl chloroformate (2.6 mL, 33 mmol) was added dropwise to a stirred suspension of 2-Amino-4-methanesulfonyl-butyric acid (5.03 g, 27.8 mmol) and NaOH (5 N in H2O, 13.3 mL, 66.6 mmol) in THF (50 mL). After stirring at room temperature for 9 h, additional methyl chloroformate (5.2 mL, 66.6 mmol) and NaOH (5 N in H2O, 30 mL, 150 mmol) were added. After another 14 h, the reaction mixture was poured into H2O. The aqueous phase was washed with DCM 2× then acidified to pH 1 with 10% HCl. The acidified aqueous phase was extracted 3× with EtOAc. The combined organics were dried over MgSO4, filtered and concentrated to provide 4-Methanesulfonyl-2-methoxycarbonylamino-butyric acid (970 mg, 15%).

reactant | Methyl chloroformate | 33 mmol, 2.6 mL | ClC(=O)OC | C2H3ClO2
reactant | 2-Amino-4-methanesulfonyl-butyric acid | 27.8 mmol, 5.03 g | NC(C(=O)O)CCS(=O)(=O)C | C5H11NO4S
reactant | NaOH | 66.6 mmol, 5 N, 13.3 mL | [OH-].[Na+]
reactant | methyl chloroformate | 66.6 mmol, 5.2 mL | ClC(=O)OC | C2H3ClO2
reactant | NaOH | 150 mmol, 5 N, 30 mL | [OH-].[Na+]
reactant | H2O | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-Methanesulfonyl-2-methoxycarbonylamino-butyric acid | 970 mg, 15% | CS(=O)(=O)CCC(C(=O)O)NC(=O)OC | C7H13NO6S
